US08048887B2
To a 2 dram vial was added 2-chloro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (42.4 mg, 0.1 mmol) in DMF (2 mL) along with cumylamine (0.029 mL, 0.200 mmol), N,N-Diisopropylethylamine (0.035 mL, 0.200 mmol) and HATU (114 mg, 0.300 mmol) to give a yellow solution. The vial was shaken at room temperature overnight. The crude reaction mixture was then evacuated to near dryness, taken up in 2 mL of methanol and purified using a Shimadzu preparative HPLC employing methanol/water/0.1% TFA where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid with a PHENOMENEX® Luna 10 μm C18 30×100 mm column at a gradient of 30-100% B and a flow rate of 40 mL/min. over 10 minutes with a 10 minute hold. The tubes containing purified product were evaporated overnight in a Savant/Thermo SPEEDVAC® to give a 45% yield of 5-(4-chloro-3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide as a white powder. The NMR spectrum was recorded at room temperature using a Bruker DRX300 spectrometer. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 220 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (300 MHz, chloroform-d) δ ppm 1.87 (s, 6H), 3.02 (d, J=4.76 Hz, 3H), 6.03 (d, J=4.76 Hz, 1H), 6.62 (s, 1H), 7.13-7.23 (m, 2H), 7.24-7.31 (m, 1H), 7.33-7.42 (m, 2H), 7.45 (d, J=8.42 Hz, 1H), 7.48-7.63 (m, 5H), 7.83-8.00 (m, 4H). LCMS m/z 542.90 (M+H), Rt 2.608 min. HPLC Rt 11.069 min. (Sunfire C18) and 12.111 min. (XBridge phenyl C18), 97.8% purity.

reactant | 2-chloro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.1 mmol, 42.4 mg | ClC1=C(C(=O)O)C=C(C=C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C23H15ClFNO4
reactant | cumylamine | 0.200 mmol, 0.029 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | N,N-Diisopropylethylamine | 0.200 mmol, 0.035 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.300 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(4-chloro-3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 45% yield | ClC1=C(C=C(C=C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C(NC(C)(C)C1=CC=CC=C1)=O | C32H26ClFN2O3
